US06677324B1
A solution of 466 mg of 7α-(5-bromopentyl)-11β-fluorooestra-1,3,5(10)-triene-3,17-diol in 10 ml of 1-methyl-2-pyrrolidinone is stirred at a bath temperature of 80° C. for 3 hours with 1.0 g of methyl-(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amine. For work-up, the mixture is added to saturated sodium chloride solution, extracted with ether, dried over sodium sulphate, concentrated in vacuo and the residue is chromatographed on silica gel using ethyl acetate/methanol. 546 mg of 11β-fluoro-7α-{5-[methyl-(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amino]pentyl}-oestra-1,3,5(10)triene-3, 17β-diol are obtained as a foam, [α]D=+39° (c=0.5 in CHCl3)

reactant | 7α-(5-bromopentyl)-11β-fluorooestra-1,3,5(10)-triene-3,17-diol | 466 mg | BrCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O | C23H32BrFO2
reactant | methyl-(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amine | 1.0 g | CNCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C11H16F9N
reactant | sodium chloride | [Cl-].[Na+]
reactant | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 11β-fluoro-7α-{5-[methyl-(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amino]pentyl}-oestra-1,3,5(10)triene-3, 17β-diol | 546 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C)O | C34H47F10NO2
